US04278748
N-(4-Aminophenethyl)benzotriazole-4-sulphonamide
N-(4-Nitrophenethyl)benzotriazole-4-sulphonamide (10 g, 29 mM) was suspended in ethanol (250 ml) and hydrogenated at 50 psi over 10 percent palladium on carbon catalyst (1 g) until hydrogen uptake ceased. The mixture was filtered through anhydrous sodium sulphate and the filtrate was concentrated under reduced pressure to leave the product as a pale yellow solid (6.53 g, 71 percent), m.p. 178° to 179° (uncorr.).

reactant | N-(4-Nitrophenethyl)benzotriazole-4-sulphonamide | 29 mM, 10 g | [N+](=O)([O-])C1=CC=C(CCNS(=O)(=O)C2=CC=CC=3NN=NC32)C=C1 | C14H13N5O4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | N-(4-Aminophenethyl)benzotriazole-4-sulphonamide | 6.53 g, 71 percent | NC1=CC=C(CCNS(=O)(=O)C2=CC=CC=3NN=NC32)C=C1 | C14H15N5O2S
